### PR TITLE
[Merged by Bors] - feat: sort eigenvalues in Analysis.InnerProductSpace.Spectrum

### PR DESCRIPTION
**Pull request by wswartworth**
Spectrum.eigenvalues and Spectrum.eigenvectorBasis now give the eigenvalues and eigenvectors in increasing order of eigenvalues, which clears a prior TODO. The new theorem eigenvalues_monotone allows the monotonicity to be used downstream.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by j-loreaux** [comment]
Can you start a zulip thread for this PR (in the PR reviews stream) and ping me, asking whether we want the eigenvalues in increasing order or decreasing order? I have some reasons to prefer decreasing order, but I'd like to have a discussion with the community.

**Comment by wswartworth** [comment]
Zulip topic: [#PR reviews > #24178 Which order to sort eigenvalues?](https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/.2324178.20Which.20order.20to.20sort.20eigenvalues.3F)

File: Mathlib/Analysis/InnerProductSpace/Spectrum.lean [hunk 1]
```diff
@@ -184,43 +193,64 @@ section Version2
...
     exact ⟨H₁, H₂⟩
   have re_μ : ↑(RCLike.re μ) = μ := by
     rw [← RCLike.conj_eq_iff_re]
     exact hT.conj_eigenvalue_eq_self (hasEigenvalue_of_hasEigenvector key)
   simpa [re_μ] using key
 
+/-- The eigenvalues for a self-adjoint operator `T` on a
+finite-dimensional inner product space `E`, sorted in decreasing order -/
+noncomputable irreducible_def eigenvalues: Fin n → ℝ :=
+  (hT.unsortedEigenvalues hn) ∘ Tuple.sort (hT.unsortedEigenvalues hn) ∘ @Fin.revPerm n
```
Comment (dupuisf) [inline Mathlib/Analysis/InnerProductSpace/Spectrum.lean:230]:
```suggestion
noncomputable irreducible_def eigenvalues : Fin n → ℝ :=
  (hT.unsortedEigenvalues hn) ∘ Tuple.sort (hT.unsortedEigenvalues hn) ∘ @Fin.revPerm n
```

File: Mathlib/Analysis/InnerProductSpace/Spectrum.lean [hunk 2]
```diff
@@ -184,43 +193,64 @@ section Version2
...
+
+/-- A choice of orthonormal basis of eigenvectors for self-adjoint operator `T` on a
+finite-dimensional inner product space `E`.  Eigenvectors are sorted in increasing
+order of their eigenvalues. -/
```
Comment (dupuisf) [inline Mathlib/Analysis/InnerProductSpace/Spectrum.lean:234]:
```suggestion
/-- A choice of orthonormal basis of eigenvectors for self-adjoint operator `T` on a
finite-dimensional inner product space `E`.  Eigenvectors are sorted in decreasing
order of their eigenvalues. -/
```

File: Mathlib/Analysis/InnerProductSpace/Spectrum.lean [hunk 3]
```diff
@@ -184,43 +193,64 @@ section Version2
...
+    hn hT.orthogonalFamily_eigenspaces').reindex
+      (Tuple.sort (hT.unsortedEigenvalues hn) * @Fin.revPerm n).symm
+
+theorem hasEigenvector_eigenvectorBasis (i : Fin n) :
+    HasEigenvector T (hT.eigenvalues hn i) (hT.eigenvectorBasis hn i) := by
+  rw [eigenvalues_def, eigenvectorBasis_def, OrthonormalBasis.reindex_apply]
+  apply hasEigenvector_eigenvectorBasis_helper
+
+/--
+Eigenvalues are sorted in decreasing order. -/
```
Comment (dupuisf) [inline Mathlib/Analysis/InnerProductSpace/Spectrum.lean:246]:
```suggestion
/-- Eigenvalues are sorted in decreasing order. -/
```

File: Mathlib/Analysis/InnerProductSpace/Spectrum.lean [hunk 4]
```diff
@@ -184,43 +193,64 @@ section Version2
...
+theorem eigenvalues_antitone : Antitone (hT.eigenvalues hn) := by
+  rw[eigenvalues_def, ←Function.comp_assoc]
```
Comment (dupuisf) [inline Mathlib/Analysis/InnerProductSpace/Spectrum.lean:248]:
```suggestion
  rw [eigenvalues_def, ← Function.comp_assoc]
```

File: Mathlib/Analysis/InnerProductSpace/Spectrum.lean [hunk 5]
```diff
@@ -184,43 +193,64 @@ section Version2
 
 variable {n : ℕ} (hn : Module.finrank 𝕜 E = n)
```
Comment (dupuisf) [inline Mathlib/Analysis/InnerProductSpace/Spectrum.lean:195]: I know this was there before this PR, but would you mind putting the `hn` parameter directly on the declarations below instead of having it as a `variable` line? I find having explicit parameters in `variable` lines makes code harder to read.

**Review by dupuisf — COMMENTED** [review]
I have some stylistic comments, but otherwise LGTM!

File: Mathlib/Analysis/InnerProductSpace/Spectrum.lean (hunk 5 above)
Comment (wswartworth) [reply Mathlib/Analysis/InnerProductSpace/Spectrum.lean]: Done! Do we want hT to similarly be inside the declarations?

Comment (dupuisf) [reply Mathlib/Analysis/InnerProductSpace/Spectrum.lean]: Yes, I think so!

Comment (wswartworth) [reply Mathlib/Analysis/InnerProductSpace/Spectrum.lean]: Makes sense -- I did that as well

File: Mathlib/Analysis/InnerProductSpace/Spectrum.lean [hunk 6]
```diff
@@ -227,46 +228,47 @@ private theorem hasEigenvector_eigenvectorBasis_helper (hn : Module.finrank 𝕜
...
-    hn hT.orthogonalFamily_eigenspaces').reindex
-      (Tuple.sort (hT.unsortedEigenvalues hn) * @Fin.revPerm n).symm
-
-theorem hasEigenvector_eigenvectorBasis (hn : Module.finrank 𝕜 E = n) (i : Fin n) :
-    HasEigenvector T (hT.eigenvalues hn i) (hT.eigenvectorBasis hn i) := by
+noncomputable irreducible_def eigenvectorBasis (hT : T.IsSymmetric) (hn : Module.finrank 𝕜 E = n) :
+  OrthonormalBasis (Fin n) 𝕜 E :=
+    (hT.direct_sum_isInternal.subordinateOrthonormalBasis
+      hn hT.orthogonalFamily_eigenspaces').reindex
+        (Tuple.sort (hT.unsortedEigenvalues hn) * @Fin.revPerm n).symm
```
Comment (dupuisf) [inline Mathlib/Analysis/InnerProductSpace/Spectrum.lean:241]:
```suggestion
noncomputable irreducible_def eigenvectorBasis (hT : T.IsSymmetric) (hn : Module.finrank 𝕜 E = n) :
    OrthonormalBasis (Fin n) 𝕜 E :=
  (hT.direct_sum_isInternal.subordinateOrthonormalBasis
    hn hT.orthogonalFamily_eigenspaces').reindex
      (Tuple.sort (hT.unsortedEigenvalues hn) * @Fin.revPerm n).symm
```
and likewise elsewhere. (See [the coding style guidelines](https://leanprover-community.github.io/contribute/style.html) for more details).

Comment (wswartworth) [reply Mathlib/Analysis/InnerProductSpace/Spectrum.lean]: Hopefully the formatting should be fixed now.

File: Mathlib/Analysis/InnerProductSpace/Spectrum.lean [hunk 7]
```diff
@@ -182,59 +191,84 @@ end Version1
...
-  hT.direct_sum_isInternal.subordinateOrthonormalBasis hn hT.orthogonalFamily_eigenspaces'
-
-/-- The sequence of real eigenvalues associated to the standard orthonormal basis of eigenvectors
-for a self-adjoint operator `T` on `E`.
+variable {n : ℕ}
 
-TODO Postcompose with a permutation so that these eigenvalues are listed in increasing order. -/
-noncomputable irreducible_def eigenvalues (i : Fin n) : ℝ :=
+/--
+Unsorted eigenvalues and eigenvectors.  These are composed with a permutation below. -/
```
Comment (dupuisf) [inline Mathlib/Analysis/InnerProductSpace/Spectrum.lean:197]: Can you direct people to use `eigenvalues` instead of this in the docstring (instead of just saying "below")?

**Review by dupuisf — COMMENTED** [review]
Looks good, thanks!

I just had one last comment, but other than that, LGTM!

bors d+
